US06407124B1
A solution of 2-(chloromethyl)-5-t-butyloxazole (8.00 g, 46.1 mmol) in triethylphosphite (15.3 g, 92.0 mmol) was heated at 120° C. for 18 hours. After cooling the mixture to room temperature, toluene (30 mL) was added and the solution was concentrated in vacuo with a bath temperature of 70° C. This procedure was repeated three times and the resulting brown oil was dried in vacuo at 90° C. for 30 minutes to give (5-t-butyl-oxazol-2-ylmethyl)-phosphonic acid diethyl ester (12.4 g, 98%, C12H22NO4P, MS m/e 276 (M+H)+) as a red-orange liquid.

reactant | 2-(chloromethyl)-5-t-butyloxazole | 46.1 mmol, 8.00 g | ClCC=1OC(=CN1)C(C)(C)C | C8H12ClNO
reactant | triethylphosphite | 92.0 mmol, 15.3 g | C(C)OP(OCC)OCC | C6H15O3P
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (5-t-butyl-oxazol-2-ylmethyl)-phosphonic acid diethyl ester | 12.4 g, 98% | C(C)OP(OCC)(=O)CC=1OC(=CN1)C(C)(C)C | C12H22NO4P
